simulator lang=spectre
global 0

ahdl_include "serializer_frame_alignment_ref.va"

// Power supplies
Vdd (vdd 0) vsource dc=1.8
Vss (vss 0) vsource dc=0

// Clock: 10ns period, 50% duty cycle
Vclk (clk 0) vsource type=pulse val0=0 val1=1.8 period=10n rise=0.1n fall=0.1n width=4.9n delay=0

// Load pulse: active for one clock cycle at 25ns
Vload (load 0) vsource type=pulse val0=0 val1=1.8 period=200n rise=0.1n fall=0.1n width=9.9n delay=25n

// Data inputs: 0xA5 = 10100101
Vdin7 (din7 0) vsource dc=1.8
Vdin6 (din6 0) vsource dc=0
Vdin5 (din5 0) vsource dc=1.8
Vdin4 (din4 0) vsource dc=0
Vdin3 (din3 0) vsource dc=0
Vdin2 (din2 0) vsource dc=1.8
Vdin1 (din1 0) vsource dc=0
Vdin0 (din0 0) vsource dc=1.8

// DUT instance
XDUT (vdd vss clk load din7 din6 din5 din4 din3 din2 din1 din0 sout frame) serializer_frame_alignment_ref

// Transient analysis
tran tran stop=130n maxstep=0.1n

// Save required signals
save clk
save frame
save sout
